Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])[H:15]>>[H:1][C:2]1[C:3][C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]1([H:14])[H:15],-0.0755726097203999
[C:8]([C:9]([H:10])([H:11])[H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])[H:7]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20],-3.6220206668
[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13],-5.15684089746
[C:5]([H:6])[H:7].[O:1]=[C:2]([H:3])/[C:4]=[C:8](/[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])/[C:4]([C:5]([H:6])[H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-5.803634707840001
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:4],3.70958082984
[H:1][O:2][O:3][C:4](=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6]([H:7])[H:8].[H:1][O:2][O:3][C:4](=[C:5])[C:9]([H:10])([H:11])[H:12],7.86877953881
[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3][C:4]#[C:5]>>[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-6.445195549580001
[C:1]=[O:2].[H:3]>>[C:1][O:2][H:3],0.7215422303129999
[H:11].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-5.2513376445
[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8][H:9].[H:10]>>[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[H:10],-4.0768006737
[C:7]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:8]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-5.59120356882
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][O:5]/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12].[H:4],2.31476751313
[H:13].[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-4.30553310096
[H:1][C:2][C:3](=[O:4])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-3.6096078702900023
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],1.34121742463
[H:1][O:2][C:3]1[C:4]2[C@@:5]([H:6])([O:7][H:8])[C@@:9]12[H:10]>>[H:1][O:2][C:3](=[C:4])/[C:9](=[C:5](\[H:6])[O:7][H:8])[H:10],0.8304653388709999
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6],7.04041772411
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:7][O:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:6],1.58175754368
[H:1][C:2]([H:3])[C@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10],1.05727442488
[C:1]#[C:2].[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:1]#[C:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[O:9][H:10],-7.17638510492
[H:13].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.39861898437
[H:9].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]=[C:10]([H:11])[H:12]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.75380842056
[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:9],4.4331302198
[H:1][O:2][C@@:3]1([H:4])[C:5]([H:6])[C:7]([H:8])=[C:9]1[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],0.34232850797
[C:7]([H:8])#[C:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],0.23569073003
[H:1][O:2][C:3][C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:6]([H:7])[H:8].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:9]([H:10])=[C:11]([H:12])[H:13],3.4228764615400005
[H:1][C:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])#[C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2][O:3][C:4]([H:5])[H:6],1.27835545201
